US06303593B1
1-Benzyl-4-(3-phenyl-2-hydroxypropyl)piperidine
To a solution of 4 g (18.24 mmol) of 1-Benzyl-4-(2-oxoethyl)piperidine in 40 mL of THF at 0° C. was added 20 mL (36.5 mmol) of benzyl magnesium chloride (2M in THF, Aldrich). THe reaction mixture was warmed to rt and stirred for 30 min. The reaction mixture was poured into 100 mL of sat'd NH4Cl solution and extracted with EtOAc. The combined organic fractions were washed with sat'd Nacl solution, and dried over MgSO4 and filtered. The filtrate was concentrated and purified by chromatography (silica, hexanes:ehtyl acetate, 4:1) to give 5.32 g of the title compound.

reactant | 1-Benzyl-4-(2-oxoethyl)piperidine | 18.24 mmol, 4 g | C(C1=CC=CC=C1)N1CCC(CC1)CC=O | C14H19NO
reactant | benzyl magnesium chloride | 36.5 mmol, 2M, 20 mL | C(C1=CC=CC=C1)[Mg]Cl
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-4-(3-phenyl-2-hydroxypropyl)piperidine | 5.32 g | C(C1=CC=CC=C1)N1CCC(CC1)CC(CC1=CC=CC=C1)O | C21H27NO
